US03936464
Preparation of 1-acetyl-3-{-2-[4-hydroxy-4-(α,α,α-trifluoro-p-tolyl)piperidino]ethyl}indoline
In the manner described in Example 5, reaction of 1-acetyl-3-(2-bromoethyl)indoline with 4-hydroxy-4-(α,α,α-trifluoro-p-tolyl)piperidine gives white crystals, which melt at 141°-143°C., after recrystallization from dilute acetone.

reactant | 1-acetyl-3-(2-bromoethyl)indoline | C(C)(=O)N1CC(C2=CC=CC=C12)CCBr | C12H14BrNO
reactant | 4-hydroxy-4-(α,α,α-trifluoro-p-tolyl)piperidine | OC1(CCNCC1)C1=CC=C(C=C1)C(F)(F)F | C12H14F3NO
product | 1-acetyl-3-{-2-[4-hydroxy-4-(α,α,α-trifluoro-p-tolyl)piperidino]ethyl}indoline | C(C)(=O)N1CC(C2=CC=CC=C12)CCN1CCC(CC1)(C1=CC=C(C=C1)C(F)(F)F)O | C24H27F3N2O2
